US08133907B2
[(R)-3-(3-Acetylaminopyridin-2-yl)-1-(2,5-difluorobenzyl)-2-oxopropyl]carbamic acid tert-butyl ester
Using general procedure 2 with [(R)-2-(2,5-Difluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester (4.85 mmol; 1.67 g) and N-(2-Methylpyridin-3-yl)acetamide (12.12 mmol; 1.82 g) gives the title compound.

reactant | [(R)-2-(2,5-Difluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester | 4.85 mmol, 1.67 g | C(C)(C)(C)OC(N[C@H](CC1=C(C=CC(=C1)F)F)C(N(C)OC)=O)=O | C16H22F2N2O4
reactant | N-(2-Methylpyridin-3-yl)acetamide | 12.12 mmol, 1.82 g | CC1=NC=CC=C1NC(C)=O | C8H10N2O
product | [(R)-3-(3-Acetylaminopyridin-2-yl)-1-(2,5-difluorobenzyl)-2-oxopropyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(CC1=NC=CC=C1NC(C)=O)=O)CC1=C(C=CC(=C1)F)F)=O | C22H25F2N3O4
